US08048887B2
Ethyl 3-(2-(4-fluorophenyl)-3-(methylcarbamoyl)-6-nitrobenzofuran-5-yl)benzoate
Cesium carbonate (1.69 g, 5.19 mmol) was added to Pd(Ph3P)4 (250 mg, 0.216 mmol), 2-(4-fluorophenyl)-3-(methylcarbamoyl)-6-nitrobenzofuran-5-yl trifluoromethanesulfonate (2.00 g, 4.33 mmol), 3-(ethoxycarbonyl)phenylboronic acid (1.01 g, 5.19 mmol). Dioxane (36 mL) and water (7 mL) was added at rt and the mixture was degassed 3×. The reaction was heated to 90° C. overnight. It was allowed to cool. The mixture was diluted with EtOAc and washed with 1M HCl, and sat NaCl. The organic phase was dried over Na2SO4, filter and concentrated. The crude solid was triturated with DCM to give the titled compound (1.70 g, 85%). 1H NMR (400 MHz, DMSO-d6) δδ ppm 8.55-8.61 (1H, m), 8.54 (1H, s), 8.00-8.09 (3H, m), 7.95 (1H, s), 7.73 (1H, s), 7.61-7.70 (2H, m), 7.45 (2H, t, J=8.91 Hz), 4.35 (2H, q, J=7.19 Hz), 2.83 (3H, d, J=4.52 Hz), 1.34 (3H, t, J=7.03 Hz). LC-MS retention time: 1.62 min; m/z (MH+): 463. LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a Waters XBridge 5u C18 4.6×50 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 5 ml/min, a gradient of 100% solvent A/0% solvent B to 0% solvent A/100% solvent B, a gradient time of 2 min, a hold time of 1 min, and an analysis time of 3 min where solvent A was 5% acetonitrile/95% H2O/10 mM ammonium acetate and solvent B was 5% H2O/95% acetonitrile/10 mM ammonium acetate. MS data was determined using a MICROMASS® Platform for LC in electrospray mode.

reactant | Cesium carbonate | 5.19 mmol, 1.69 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-(4-fluorophenyl)-3-(methylcarbamoyl)-6-nitrobenzofuran-5-yl trifluoromethanesulfonate | 4.33 mmol, 2.00 g | FC(S(=O)(=O)OC=1C(=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(NC)=O)C1)[N+](=O)[O-])(F)F | C17H10F4N2O7S
reactant | 3-(ethoxycarbonyl)phenylboronic acid | 5.19 mmol, 1.01 g | C(C)OC(=O)C=1C=C(C=CC1)B(O)O | C9H11BO4
reactant | Dioxane | 36 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(Ph3P)4 | 0.216 mmol, 250 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 7 mL | O | H2O
product | Ethyl 3-(2-(4-fluorophenyl)-3-(methylcarbamoyl)-6-nitrobenzofuran-5-yl)benzoate | 1.70 g, 85% | FC1=CC=C(C=C1)C=1OC2=C(C1C(NC)=O)C=C(C(=C2)[N+](=O)[O-])C=2C=C(C(=O)OCC)C=CC2 | C25H19FN2O6
